US09315475B2
Step 6: 4-Fluoro-β-(4-fluorophenyl)-N-(3-fluoro-2-{2-[(2R,5S)-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholin-2-yl]ethyl}phenyl)-L-phenylalaninamide dihydrochloride
4M HCl (44.5 mL, 178 mmol) in dioxane was added to a solution of tert-Butyl (2R,5S)-2-[2-(2-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-6-fluorophenyl)ethyl]-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholine-4-carboxylate (7.46 g, 8.89 mmol) in Dioxane (89 mL) at 0° C. and then the reaction was stirred at rt for 4 hours. The solvent was removed in vacuo and ether was added to the residue to afford a white ppt. The ppt was triturated with ether (×3) and the residing white solid dried under high vacuum to afford the title compound (5.84 g, 8.21 mmol, 92% yield) as a white powder, MS (ESI): m/z=639.5 (MH+); 100% pure by LCMS.

reactant | HCl | 178 mmol, 4M, 44.5 mL | Cl | ClH
reactant | tert-Butyl (2R,5S)-2-[2-(2-{[N-(tert-butoxycarbonyl)-4-fluoro-β-(4-fluorophenyl)-L-phenylalanyl]amino}-6-fluorophenyl)ethyl]-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholine-4-carboxylate | 8.89 mmol, 7.46 g | C(C)(C)(C)OC(=O)N[C@@H](C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)NC1=C(C(=CC=C1)F)CC[C@@H]1CN([C@@H](CO1)COC(NCC(F)(F)F)=O)C(=O)OC(C)(C)C | C41H48F6N4O8
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | Dioxane | 89 mL | O1CCOCC1 | C4H8O2
product | 4-Fluoro-β-(4-fluorophenyl)-N-(3-fluoro-2-{2-[(2R,5S)-5-({[(2,2,2-trifluoroethyl)carbamoyl]oxy}methyl)morpholin-2-yl]ethyl}phenyl)-L-phenylalaninamide dihydrochloride | 8.21 mmol, 5.84 g, 92% yield | Cl.Cl.FC1=CC=C(C([C@H](N)C(=O)NC2=C(C(=CC=C2)F)CC[C@@H]2CN[C@@H](CO2)COC(NCC(F)(F)F)=O)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C31H32F6N4O4.2ClH/c32-20-8-4-18(5-9-20)27(19-6-10-21(33)11-7-19)28(38)29(42)41-26-3-1-2-25(34)24(26)13-12-23-14-39-22(15-44-23)16-45-30(43)40-17-31(35,36)37;;/h1-11,22-23,27-28,39H,12-17,38H2,(H,40,43)(H,41,42);2*1H/t22-,23+,28-;;/m0../s1
